data/oMe_Silver.jsonl
{"reaction_id": "NR-212_1-CC_2-C_3-C(C)(C)C_4-c1cnccc1_5-c1ccc(Cl)cc1_6-C(C)C","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(CC)(C)=C(C(C)(C)C)(c1cnccc1)","O=C(c1ccc(Cl)cc1)(C(C)C)"],"products_smiles": ["C1(CC)(C)C(c1ccc(Cl)cc1)(C(C)C)OC1(C(C)(C)C)(c1cnccc1)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(CC)(C)C(c1ccc(Cl)cc1)(C(C)C)OC1(C(C)(C)C)(c1cnccc1)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
{"reaction_id": "NR-122_1-C(=O)C_2-C(=O)C(F)(F)F_3-c1ccc(OC)cc1_4-C(C)(C)C","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1ccc(OC)cc1)C(C)(C)C","C(C(=O)C)C(=O)C(F)(F)F"],"products_smiles": ["C(=C(C(=O)C)C(=O)C(F)(F)F)(c1ccc(OC)cc1)C(C)(C)C"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1ccc(OC)cc1)C(C)(C)C","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C(=O)C)C(=O)C(F)(F)F","rationale": "The basic nitrogen abstracts an acidic α-proton from C(=O)C–C(=O)C(F)(F)F methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1ccc(OC)cc1)C(C)(C)C)(C(=O)C)C(=O)C(F)(F)F","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1ccc(OC)cc1)C(C)(C)C)(C(=O)C)C(=O)C(F)(F)F","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)C)C(=O)C(F)(F)F)(c1ccc(OC)cc1)C(C)(C)C","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
